US07119207B2
6-Methoxy-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde
A mixture of 0.29 gm (2.19 mmol) aluminum chloride in 5 ml of methylene chloride was prepared under nitrogen gas N2 and stirred for 15 minutes and then cooled to 0° C. The mixture was treated with 0.2 gm (1.13 mmol) 6-Methoxy-3,4-dihydro-1H-quinolin-2-one in 5 ml of methylene chloride. The reaction mixture was stirred for 10 minutes at this temperature and was then cooled to −5° C. α,α-dichloromethyl methyl ether 0.28 ml (3.07 mmol) was added over a 5 minutes period and the green reaction mixture was slowly warmed to room temperature and stirred for 6 hours. The reaction mixture was diluted with 2N HCl and extracted with methylene chloride (4×10 ml). The combined organics were dried over sodium sulfate, filtered and concentrated to yield an off white solid. The crude product was chromatographically purified on silica gel, eluting with 7/3 ethyl acetate/hexane. There was obtained 125 mg (54%) of an off white solid. MS APCI m/e 206 (p+1)

reactant | aluminum chloride | 2.19 mmol, 0.29 gm | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 6-Methoxy-3,4-dihydro-1H-quinolin-2-one | 1.13 mmol, 0.2 gm | COC=1C=C2CCC(NC2=CC1)=O | C10H11NO2
reactant | α,α-dichloromethyl methyl ether | 3.07 mmol, 0.28 ml | COC(Cl)Cl | C2H4Cl2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | HCl | 2N | Cl | ClH
product | 6-Methoxy-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde | COC=1C=C2CCC(NC2=CC1C=O)=O | C11H11NO3
